US03983111
21-Bromo-3α-hydroxy-2β-methyl-5α-pregnane-11,20-dione
A solution of 3α-hydroxy-2β-methyl-5α-pregnane-11,20-dione (1.04g.) in dry methanol (150ml) was stirred at 0°-5° during the dropwise addition of a solution of bromine (0.16ml) in dry methanol (20ml) over a period of 2.5 hours. The reaction mixture was partitioned between ethyl acetate and water and the organic layer was separated, washed with water, dried (MgSO4) and evaporated to a white foam; purification by preparative t.l.c. (ethyl acetate: benzene 1:2.5) gave the title compound (510mg.), m.p. 140° dec.; [α]D + 133° (c 0.95).

reactant | 3α-hydroxy-2β-methyl-5α-pregnane-11,20-dione | 1.04g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1C)C)=O)C | C22H34O3
reactant | bromine | 0.16ml | BrBr | Br2
solvent | methanol | 150ml | CO | CH4O
solvent | methanol | 20ml | CO | CH4O
product | 21-Bromo-3α-hydroxy-2β-methyl-5α-pregnane-11,20-dione | 510mg | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)C)O)=O | C22H33BrO3
